US07626029B2
Ethyl 2,4-difluoro-3-methoxybenzoate
2,4-Difluoro-3-methoxybenzoic acid (18.8 g) was placed in a reaction vessel and was suspended in 100 ml of toluene added thereto at room temperature. After dropwise addition of 0.5 mL of N,N-dimethylformamide, 14.6 mL of thionyl chloride was added dropwise, and the resulting mixture was heated to 60° C. with stirring. After 7 hours, 50 mL of ethanol was added and an insoluble matter was filtered out. The filtrate was washed with water and saturated brine, and dried with anhydrous sodium sulfate. The solvent was distilled away to give the title compound (21.4 g) as a pale yellow oil.

reactant | 2,4-Difluoro-3-methoxybenzoic acid | 18.8 g | FC1=C(C(=O)O)C=CC(=C1OC)F | C8H6F2O3
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 14.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,4-difluoro-3-methoxybenzoate | 21.4 g | FC1=C(C(=O)OCC)C=CC(=C1OC)F | C10H10F2O3
